US06384051B1
N-[4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl]-4-hydroxy-2-butynamide
Isobutyl chloroformate (0.214 g, 1.57 mmol) and N-methylmorpholine (0.190 g, 1.88 mmol) were added to an ice cold solution of 0.336 g (1.57 mmol) of 4-(tert-butyl-dimethyl-silanyloxy)-2-butynoic acid in 15 mL of tetrahydrofuran under N2. After stirring for 30 min, it was transferred to an additional funnel plugged with a glass wool and added dropwise to a solution of 0.4 g (1.18 mmol) of 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile in 3 mL of tetrahydrofuran and 1.5 ml of pyridine. The mixture was stirred at 25° C. for 1 h. The reaction solution was poured into ethyl acetate and washed with saturated sodium bicarbonate and brine. The product was collected and purified by flash column chromatography (60% ethyl acetate in hexane) to give 0.220 g of

reactant | Isobutyl chloroformate | 1.57 mmol, 0.214 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 1.88 mmol, 0.190 g | CN1CCOCC1 | C5H11NO
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-2-butynoic acid | 1.57 mmol, 0.336 g | C(C)(C)(C)[Si](OCC#CC(=O)O)(C)C | C10H18O3Si
reactant | 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile | 1.18 mmol, 0.4 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl]-4-hydroxy-2-butynamide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCO)=O)C#N | C20H13BrN4O2
